US07259266B2
Step 2. Preparation of ethyl 8-ethynyl-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To a solution of ethyl 6-(trifluoromethoxy)-2-(trifluoromethyl)-8-[(trimethylsilyl)ethynyl]-2H-chromene-3-carboxylate prepared as in Step 1 (22.8 g, 50.3 mmole) in anhydrous CH2Cl2 (200 mL) was added a solution of TBAF (62.9 mL-1.0 M in THF), 62.9 mmole) under a dry N2 atmosphere. The mixture was stirred for 10 minutes and then poured into sat. NH4Cl (200 mL) and extracted with EtOAc (500 mL). The EtOAc extract was washed with brine (100 mL), dried over MgSO4, filtered and concentrated in vacuo to give 40 g of a dark brown oil. The crude product was purified by silica chromatography (98:2 hexanes:CH2Cl2) to give 13.9 g (73% yield) of the product as a yellow crystalline solid: EIHRMS m/z 380.0505 (M+, C16H10F6O4, Calc'd 380.0483).

reactant | ethyl 6-(trifluoromethoxy)-2-(trifluoromethyl)-8-[(trimethylsilyl)ethynyl]-2H-chromene-3-carboxylate | FC(OC=1C=C2C=C(C(OC2=C(C1)C#C[Si](C)(C)C)C(F)(F)F)C(=O)OCC)(F)F | C19H18F6O4Si
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | NH4Cl | 200 mL | [NH4+].[Cl-]
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | ethyl 8-ethynyl-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 40 g | C(#C)C=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC(F)(F)F | C16H10F6O4
